US04788304
(A) 2-[6-(4-Chlorophenoxy)-1-oxohexyl]-2-oxiranecarboxylic acid methyl ester
To a suspension of 11.6 g (54 mmol) of pyridinium chlorochromate and 4.4 g (54 mmol) of sodium acetate in 200 ml of methylene chloride is added 2.95 g (9 mmol) of 2-[6-(4-chlorophenoxy)-1-hydroxyhexyl]-2-oxiranecarboxylic acid methyl ester (isomer A) prepared according to the procedure of Example 2, part 2, at room temperature under a nitrogen atmosphere. The mixture is stirred for 4 hours, is diluted with 600 ml of ethyl ether and is filtered through Florisil. Rotoevaporation gives 2.2 g of crude product. Preparative column chromatography (silica gel:ethyl ether (3:2)) affords 1.66 g (56.4%) of the title compound: IR (film) 1746, 1719 cm-1 ; NMR (CDCl3) δ 1.49 (2H, p, J=8 Hz), 1.62-1.86 (4H, mc), 2.62 (2H, m), 3.05 (1H, d, J=6 Hz), 3.36 (1H, d, J=6 Hz), 3.86 (3H, s), 3.94 (2H, t, J=6 Hz), 6.84 (2H, d, J=8 Hz) and 7.27 (2H, d, J=8 Hz).

reactant | pyridinium chlorochromate | 54 mmol, 11.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 54 mmol, 4.4 g | C(C)(=O)[O-].[Na+]
reactant | 2-[6-(4-chlorophenoxy)-1-hydroxyhexyl]-2-oxiranecarboxylic acid methyl ester | 9 mmol, 2.95 g | COC(=O)C1(OC1)C(CCCCCOC1=CC=C(C=C1)Cl)O | C16H21ClO5
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 600 ml | C(C)OCC | C4H10O
product | 2-[6-(4-Chlorophenoxy)-1-oxohexyl]-2-oxiranecarboxylic acid methyl ester | 1.66 g, 56.4% | COC(=O)C1(OC1)C(CCCCCOC1=CC=C(C=C1)Cl)=O | C16H19ClO5
